* NMOS M1
M1 4 2 1 1 NMOS
* NMOS M2
? Missing component
* PMOS M3
M3 5 3 6 6 PMOS
* Voltage Source VDD
VDD 6 0 DC VDD
* Input Voltage Source Vin
Vin 2 0 DC Vin
* Ground
VSS 1 0 DC 0
